US04182757
A mixture of 3.3 g of 3-chloro-1,2-dihydroxy-n-propane and 8 g of n-propylamine is allowed to stand at room temperature for 5 days. The reaction mixture is condensed to dryness under reduced pressure, whereby 5.0 g of N-n-propyl-2,3-dihydroxy-n-propylamine hydrochloride are obtained as a crude product. 5.0 g of said crude product and 3 g of triethylamine are dissolved in 40 ml of methanol. 3.2 g of 2-chloroethyl isocyanate are added to the solution at 0° to 5° C. Then, the reaction mixture is treated in the same manner as described in Example 62-(1). 3.0 g of 1-(2-chloroethyl)-3-n-propyl-3-(2,3-dihydroxy-n-propyl)urea are obtained as a colorless oil.

reactant | 3-chloro-1,2-dihydroxy-n-propane | 3.3 g | ClCC(CO)O | C3H7ClO2
reactant | n-propylamine | 8 g | C(CC)N | C3H9N
reactant | N-n-propyl-2,3-dihydroxy-n-propylamine hydrochloride | 5.0 g | Cl.C(CC)NCC(CO)O
reactant | 2-chloroethyl isocyanate | 3.2 g | ClCCN=C=O | C3H4ClNO
solvent | methanol | 40 ml | CO | CH4O
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | 1-(2-chloroethyl)-3-n-propyl-3-(2,3-dihydroxy-n-propyl)urea | 3.0 g | ClCCNC(=O)N(CC(CO)O)CCC | C9H19ClN2O3
